US04264599
A mixture of 15.4 g of 3-hydroxy-2-methoxy-pyridine, 16 g of potassium carbonate, 25 ml of epichlorohydrin and 150 ml of acetonitrile is refluxed for 7 hours. Cooling and filtering the mixture and evaporating the filtrate yields crude 3-(2,3-epoxy-propoxy)-2-methoxypyridine, which is used without further purification.

reactant | 3-hydroxy-2-methoxy-pyridine | 15.4 g | OC=1C(=NC=CC1)OC | C6H7NO2
reactant | potassium carbonate | 16 g | C([O-])([O-])=O.[K+].[K+]
reactant | epichlorohydrin | 25 ml | C(Cl)C1CO1 | C3H5ClO
solvent | acetonitrile | 150 ml | C(C)#N | C2H3N
product | 3-(2,3-epoxy-propoxy)-2-methoxypyridine | O1C(COC=2C(=NC=CC2)OC)C1 | C9H11NO3
